US04147872
3-(3-Benzyloxyphenyl)-1-phenoxybutane
A solution of phenol (4.56 g., 48.6 mmole) in dimethylformamide (40 ml.) is added under a nitrogen atmosphere to a suspension of sodium hydride (2.32 g., 48.6 mmole) of 50% previously washed with pentane) in dimethylformamide (70 ml.) at 60° C. The reaction mixture is stirred for one hour at 60°-70° C., after which a solution of 3-(3-benzyloxyphenyl)butyl tosylate (18.9 g., 46 mmole) in dimethylformamide (80 ml.) is added. The reaction mixture is stirred at 80° C. for a half hour and is then cooled to room temperature, diluted with cold water (2500 ml.) and extracted with ether (4 × 400 ml.). The combined extracts are washed successively with cold 2N hydrochloric acid (2 × 300 ml.) and saturated sodium chloride solution (3 × 300 ml.) and then dried (Na2SO4). Removal of the solvent under reduced pressure affords the product as an oil. The oily residue is dissolved in benzene and filtered through silica gel (100 g.). Concentration of the filtrate under reduced pressure gives the product as an oil.

reactant | phenol | 48.6 mmole, 4.56 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydride | 48.6 mmole, 2.32 g | [H-].[Na+]
reactant | 3-(3-benzyloxyphenyl)butyl tosylate | 46 mmole, 18.9 g | S(=O)(=O)(OCCC(C)C1=CC(=CC=C1)OCC1=CC=CC=C1)C1=CC=C(C)C=C1 | C24H26O4S
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | water | 2500 ml | O | H2O
product | 3-(3-Benzyloxyphenyl)-1-phenoxybutane | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(CCOC1=CC=CC=C1)C | C23H24O2
